US04025501
EXAMPLE I Methyl Succinate Monochloride
Methyl succinate (20.5 g) was heated with 20 ml thionyl chloride to 40° for 3.5 hours. Excess thionyl chloride was removed by vacuum distillation (13 mm Hg). The acid chloride (20.6 g) was distilled at 43°-44° /0.2 mm Hg.

reactant | Methyl succinate | 20.5 g | C(CCC(=O)[O-])(=O)OC
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | Methyl Succinate Monochloride | [Cl-].C(CCC(=O)[O-])(=O)OC | InChI=1S/C5H8O4.ClH/c1-9-5(8)3-2-4(6)7;/h2-3H2,1H3,(H,6,7);1H/p-2
